US05422402
2-(2-tert-Butyldimethylsilyloxyethoxy)-2-oxo-1,3,2-dioxaphospholane
A solution of freshly prepared 2-chloro-2-oxo-1,3,2-dioxaphospholane (14.2 g, 0.1M) in dry dichloromethane (30 ml) was added, drop-wise, to a stirred mixture of 2-(tert-butyldimethylsilyloxy)ethanol (17.6 g, 0.1M), triethylamine (18.1 ml, 0.13M) in dry dichloromethane (30 ml) at 0° C. under a nitrogen atmosphere. The mixture was allowed to warm to ambient temperature and was stirred for a further 2 hours. The mixture was filtered and the filtrand washed with n-hexane. The filtrate was evaporated in vacuo, diluted with n-hexane (30 ml) filtered and the filtrate evaporated in vacuo to give a brown oil.

reactant | 2-chloro-2-oxo-1,3,2-dioxaphospholane | 0.1M, 14.2 g | ClP1(OCCO1)=O | C2H4ClO3P
reactant | 2-(tert-butyldimethylsilyloxy)ethanol | 0.1M, 17.6 g | [Si](C)(C)(C(C)(C)C)OCCO | C8H20O2Si
reactant | triethylamine | 0.13M, 18.1 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-(2-tert-Butyldimethylsilyloxyethoxy)-2-oxo-1,3,2-dioxaphospholane | [Si](C)(C)(C(C)(C)C)OCCOP1(OCCO1)=O | C10H23O5PSi
